US06482920B1
3-[1-Methyl-4[1-methyl-4[1-methyl-4[1-methyl-4-(α-bromo-acrylamido)pyrrole-2-carboxamido]pyrrole-2-carboxamido]pyrrole-2-carboxamido]pyrrole-2-carboxamido]propionitrile
To a solution of 350 mg of 3-[1-methyl-4[1-methyl-4[1-methyl-4-[1-methyl-4-(α-bromoacrylamido)pyrrole-2-carboxamido]pyrrole-2-carboxamido]pyrrole-2-carboxamido]pyrrole-2-carboxamido]propionamidine hydrochloride (prepared as reported in WO 90/11277) in 20 ml of DMF, were added 120 mg of succinic anhydride and 165 mg of K2CO3. The solution was heated at 60° C. for 3 hours then the solvent evaporated under reduced pressure and the crude residue was purified by flash chromatography (methylene chloride/methanol: 95/5) to yield 150 mg of the title compound as a pale yellow solid.

reactant | 3-[1-methyl-4[1-methyl-4[1-methyl-4-[1-methyl-4-(α-bromoacrylamido)pyrrole-2-carboxamido]pyrrole-2-carboxamido]pyrrole-2-carboxamido]pyrrole-2-carboxamido]propionamidine hydrochloride | 350 mg | Cl.CN1C(=CC(=C1)NC(=O)C=1N(C=C(C1)NC(=O)C=1N(C=C(C1)NC(=O)C=1N(C=C(C1)NC(C(=C)Br)=O)C)C)C)C(=O)NCCC(=N)N
reactant | succinic anhydride | 120 mg | C1(CCC(=O)O1)=O | C4H4O3
reactant | K2CO3 | 165 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3-[1-Methyl-4[1-methyl-4[1-methyl-4[1-methyl-4-(α-bromo-acrylamido)pyrrole-2-carboxamido]pyrrole-2-carboxamido]pyrrole-2-carboxamido]pyrrole-2-carboxamido]propionitrile | 150 mg | CN1C(=CC(=C1)NC(=O)C=1N(C=C(C1)NC(=O)C=1N(C=C(C1)NC(=O)C=1N(C=C(C1)NC(C(=C)Br)=O)C)C)C)C(=O)NCCC#N | C30H31BrN10O5
